US08378095B2
A mixture of tert-butyl 4-(4-(4-(ethoxycarbonyl)-2-iodooxazol-5-yl)phenyl)piperazine-1-carboxylate (0.06 g, 0.11 mmol), o-toluidine (0.061 ml, 0.57 mmol), tris(dibenzylideneacetone)dipalladium(0) (0.005 g, 0.005 mmol), 2-(dicyclohexylphosphino)-2′,4′,6′-tri-1-propyl-1,1′-biphenyl (0.011 g, 0.02 mmol) and potassium carbonate (0.063 g, 0.46 mmol) in DMF (1.5 ml) was degassed and heated in the microwave at 150° C. for 20 minutes. The reaction mixture was diluted with EtOAc and washed with water (×2). The organic phase was passed through a MP-SH cartridge, dried over MgSO4 and the solvent removed in vacuo. The residue was purified by silica gel column chromatography using 10-90% EtOAc in hexane as gradient to afford tert-butyl 4-(4-(2-(o-toluidino)-4-(ethoxycarbonyl)oxazol-5-yl)phenyl)piperazine-1-carboxylate (0.030 g, 0.06 mmol, 52%). LCMS (1) Rt: 2.63 min; m/z (ES+) 507.

reactant | tert-butyl 4-(4-(4-(ethoxycarbonyl)-2-iodooxazol-5-yl)phenyl)piperazine-1-carboxylate | 0.11 mmol, 0.06 g | C(C)OC(=O)C=1N=C(OC1C1=CC=C(C=C1)N1CCN(CC1)C(=O)OC(C)(C)C)I | C21H26IN3O5
reactant | o-toluidine | 0.57 mmol, 0.061 ml | NC=1C(=CC=CC1)C | C7H9N
reactant | 2-(dicyclohexylphosphino)-2′,4′,6′-tri-1-propyl-1,1′-biphenyl | 0.02 mmol, 0.011 g | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=C(C=C1CCC)CCC)CCC)C1CCCCC1 | C33H49P
reactant | potassium carbonate | 0.46 mmol, 0.063 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 1.5 ml | CN(C)C=O | C3H7NO
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.005 mmol, 0.005 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | tert-butyl 4-(4-(2-(o-toluidino)-4-(ethoxycarbonyl)oxazol-5-yl)phenyl)piperazine-1-carboxylate | 0.06 mmol, 0.030 g, 52% | C=1(C(=CC=CC1)NC=1OC(=C(N1)C(=O)OCC)C1=CC=C(C=C1)N1CCN(CC1)C(=O)OC(C)(C)C)C | C28H34N4O5
